US07071184B2
5-Methoxy-benzofuran-2-carboxylic acid {(S)-3-methyl-1-[(4S,6S)-6-methyl-3-oxo-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide
To a solution of 5-methoxy-benzofuran-2-carboxylic acid {(S)-1-[3-hydroxy-6-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide (110 mg, 0.19 mmol) in 5 ml CH2Cl2, was added Dess-Martin reagent (122 mg, 0.29 mmol) at RT. The solution was stirred for 2 h when 50 ml CH2Cl2 was added and then washed with 10% NaHCO3 and brine. Purification by column chromatograghy (50% ethyl acetate in hexane) gave the title compound (90 mg, 82% yield). 1H-NMR (400 Hz, CDCl3): d (ppm): 8.69(d, 1H), 7.94(m, 2H), 7.39–7.24(m, 3H), 7.02(m, 4H), 5.26(m, 1H), 4.69(m, 2H), 3.84(m, 4H), 3.00(m, 1H), 2.05(m, 1H), 1.73(m, 2H), 1.61(m, 4H), 1.18(d, 3H), 0.97(d,6H);). The diastereomers were separated by HPLC. Diastereomer 1: MS (M+H+): 571.2; Diastereomer 2. MS (M+H+): 571.2.

reactant | 5-methoxy-benzofuran-2-carboxylic acid {(S)-1-[3-hydroxy-6-methyl-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-3-methyl-butyl}-amide | 0.19 mmol, 110 mg | OC1CN(CC(CC1NC(=O)[C@H](CC(C)C)NC(=O)C=1OC2=C(C1)C=C(C=C2)OC)C)S(=O)(=O)C2=NC=CC=C2 | C28H36N4O7S
reactant | Dess-Martin reagent | 0.29 mmol, 122 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-Methoxy-benzofuran-2-carboxylic acid {(S)-3-methyl-1-[(4S,6S)-6-methyl-3-oxo-1-(pyridine-2-sulfonyl)-azepan-4-ylcarbamoyl]-butyl}-amide | 90 mg, 82% yield | CC(C[C@@H](C(N[C@@H]1C(CN(C[C@H](C1)C)S(=O)(=O)C1=NC=CC=C1)=O)=O)NC(=O)C=1OC2=C(C1)C=C(C=C2)OC)C | C28H34N4O7S
